US05641886
A solution of 0.26 g of methanesulfonic acid (2S,3S)-3-(1,3-dioxo-2,3-dihydro-1H-isoindol-2-yl)-2-hydroxy-4-phenylbutyl ester in 1.6 ml of tetrahydrofuran is treated at -15° with a solution of 0.090 g of potassium tertbutylate in 0.5 ml of tetrahydrofuran and the mixture is stirred for 0.5 hours. The mixture is treated with 2.2 ml of semi-saturated sodium chloride solution and the pH value is adjusted to 6 with 0.1 ml of 1N sulphuric acid. Thereafter, the mixture is extracted with ethyl acetate. The extracts are dried and filtered, and the filtrate is evaporated to give 0.12 g (60%) of 2(S)-[2-phenyl-1(S)-phthalimidoethyl]oxirane, IR (KBr): 1773m and 1709s (C=O of imide).

reactant | methanesulfonic acid (2S,3S)-3-(1,3-dioxo-2,3-dihydro-1H-isoindol-2-yl)-2-hydroxy-4-phenylbutyl ester | 0.26 g | O=C1N(C(C2=CC=CC=C12)=O)[C@H]([C@@H](COS(=O)(=O)C)O)CC1=CC=CC=C1 | C19H19NO6S
reactant | sodium chloride | 2.2 ml | [Cl-].[Na+]
reactant | sulphuric acid | 1N, 0.1 ml | S(O)(O)(=O)=O | H2O4S
solvent | tetrahydrofuran | 1.6 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.5 ml | O1CCCC1 | C4H8O
product | 2(S)-[2-phenyl-1(S)-phthalimidoethyl]oxirane | 0.12 g, 60% | C1(=CC=CC=C1)C[C@H](N1C(C=2C(C1=O)=CC=CC2)=O)[C@@H]2OC2 | C18H15NO3
